US04482556
9,10-Dimethoxy-2-butoxy-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one
1.46 g of 9,10-dimethoxy-6,7-dihydro-2-chloro-4H-pyrimido(6,1-a)isoquinolin-4-one are added to a mixture of 1.0 g of sodium hydroxide and 50.0 ml of n-butanol. The reduction mixture is refluxed for 6 hours. The solvent is removed under reduced pressure. The residue is treated with water and extracted with chloroform. The extract is dried over anhydrous Na2SO4 and evaporated to give a white solid. After crystallization from a chloroform-ether mixture, 0.7 g of the title compound is obtained, m.p. 158°-159° C.

reactant | 9,10-dimethoxy-6,7-dihydro-2-chloro-4H-pyrimido(6,1-a)isoquinolin-4-one | 1.46 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)Cl | C14H13ClN2O3
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
solvent | n-butanol | 50.0 ml | C(CCC)O | C4H10O
product | 9,10-Dimethoxy-2-butoxy-6,7-dihydro-4H-pyrimido(6,1-a)isoquinolin-4-one | 0.7 g | COC=1C=C2CCN3C(C2=CC1OC)=CC(=NC3=O)OCCCC | C18H22N2O4
